### ISSUE TITLE
Failing to translate `DecidableEq`

### ISSUE THREAD

**Issue by dranov** [ufmg-smite/lean-smt#97]
With a context that looks like this:

```Lean
import Smt

set_option trace.smt.translate.query true

theorem extracted {round : Type} [round_dec : DecidableEq round]
  (st_one_a : round → Bool) (st'_one_a : round → Bool)
  (hnext : ∃ r, (∀ (x : round), st'_one_a x = if x = r then true else st_one_a x))
  : True := by
  smt [hnext]
```

I get an `incorrect number of universe levels DecidableEq` error.

The `DecidableEq` instance is necessary to allow the `x = r` in the `if` condition. I guess what is happening is that `lean-smt` tries to translate `round_dec` into an SMT-LIB sort and fails because it's a higher-order type:

```Lean
abbrev DecidableEq (α : Sort u) :=
  (a b : α) → Decidable (Eq a b)
```

Could you suggest how I could fix this or at least work around the issue?

Thanks for the work you're doing on `lean-smt`!

**Comment by dranov** [comment]
It appears that the error comes from `inferType` [here](https://github.com/ufmg-smite/lean-smt/blob/main/Smt/Translate/Query.lean#L190) when called on `DecidableEq`.

**Comment by dranov** [comment]
For what it's worth, simply skipping `DecidableEq`, as in [this commit](https://github.com/dranov/lean-smt/commit/8ef2f194b5d56a1b67d54f9d2768147c7a73c945) seems to be a sufficient work-around. Something more principled would be helpful, though.

**Comment by abdoo8080** [comment]
#102 fixes this issue. Though, Lean still returns an error for the theorem. That is because we don't support proof reconstruction for `Bool`, yet. Changing `Bool` to `Prop` in the theorem works:
```lean
theorem extracted' {round : Type} [round_dec : DecidableEq round]
  (st_one_a : round → Prop) (st'_one_a : round → Prop)
  (hnext : ∃ r, (∀ (x : round), st'_one_a x = if x = r then True else st_one_a x))
  : True := by
  smt [hnext]
```
But that brings about more issues...
